US09227951B2
To a solution of 2-(1,3-dioxolan-2-yl)thiazole (65 g, 0.41 mol) in THF (900 mL) under nitrogen was slowly added n-BuLi (180 mL, 2.5 M in hexanes) at −78° C. The mixture was stirred at −78° C. for 2 h, and then solid dry ice was added. The solution was then warmed to rt and stirred overnight. Hydrochloric acid (2 N) was added to the solution until pH<4. The mixture was then extracted with ether (5×300 mL). Combined organic phases were washed with water (200 mL), brine (200 mL), dried (Na2SO4), and concentrated to give a yellow solid. This solid was then rinsed with petroleum ether to give 2-(1,3-dioxolan-2-yl)thiazole-5-carboxylic acid (72.5 g, 87%). 1H NMR (dmso-d6, 400 MHz) δ 13.70 (s, 1H), 8.36 (s, 1H), 6.10 (s, 1H), 4.06 (m, 4H).

reactant | 2-(1,3-dioxolan-2-yl)thiazole | 0.41 mol, 65 g | O1C(OCC1)C=1SC=CN1 | C6H7NO2S
reactant | n-BuLi | 2.5 M, 180 mL | [Li]CCCC
reactant | dry ice | C(=O)=O | CO2
reactant | Hydrochloric acid | 2 N | Cl | ClH
solvent | THF | 900 mL | C1CCOC1 | C4H8O
product | 2-(1,3-dioxolan-2-yl)thiazole-5-carboxylic acid | 72.5 g, 87% | O1C(OCC1)C=1SC(=CN1)C(=O)O | C7H7NO4S
